US06281218B1
(2-Amino-6-methoxyphenyl)carbamic Acid Benzyl Ester
A mixture of (2-methoxy-6-nitrophenyl) carbamic acid benzyl ester (17.5 g; 0.058 mol) and SnCl2·2H2O (65.3 g; 0.29 mol) in anhydrous ethanol, was heated at 70° C. for 2 hours. The solvent was then removed under vacuum and the residue was acidified with 10% aqueous HCl. The title compound was extracted with ethyl acetate and washed with diluted aqueous K2CO3. The precipitated solid was filtered off, the organic layer was dried over MgSO4 and evaporated under vacuum to give the title compound after crystallization with n-hexane. The compound was used without further purification. Yellow solid; 9.6 g.

reactant | (2-methoxy-6-nitrophenyl) carbamic acid benzyl ester | 0.058 mol, 17.5 g | C(C1=CC=CC=C1)OC(NC1=C(C=CC=C1[N+](=O)[O-])OC)=O | C15H14N2O5
reactant | SnCl2·2H2O | 0.29 mol, 65.3 g | O.O.Cl[Sn]Cl
solvent | ethanol | C(C)O | C2H6O
product | (2-Amino-6-methoxyphenyl)carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC1=C(C=CC=C1OC)N)=O | C15H16N2O3
